US04611056
A solution of sodium hydrosulfite (40 g) in water (0.5 l) was added to a suspension of 6-methyl-5H-benzo[a]phenothiazine-5-one (10.4 g) in ethyl acetate (1 l) and stirred for 2 hours. The organic layer was decanted, dried and evaporated to dryness. The resulting residue was triturated with ether and filtered to afford 5-hydroxy-6-methyl-12H-benzo[a]phenothiazine as an air sensitive solid.

reactant | sodium hydrosulfite | 40 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 6-methyl-5H-benzo[a]phenothiazine-5-one | 10.4 g | CC=1C(C2=C(C3=NC4=CC=CC=C4SC13)C=CC=C2)=O | C17H11NOS
solvent | water | 0.5 l | O | H2O
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-6-methyl-12H-benzo[a]phenothiazine | OC1=C2C(=C3NC4=CC=CC=C4SC3=C1C)C=CC=C2 | C17H13NOS
